2184-02-08 22:28:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: NSVT, renal failure, septic joint
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63M h/o HTN, PE s/p IVC placement, obesity, s/p b/l TKR admitted to [**Last Name (un) 508**]
   sepsis, SCN, DIC, seeding Lt knee prosthesis subsequently transferred
   to NEBH for cleanout/spacers [**2-3**] extubated on [**2-4**] developed post-op
   non-oliguric renal failure, ileus and runs of NSVT despite
   amiodarone.
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Lorazepam
   agitation;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 1 mg/min
   Heparin Sodium - 2,100 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Nausea, Emesis
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2184-2-8**] 10:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 71 (65 - 71) bpm
   BP: 115/85(92) {99/22(53) - 140/85(92)} mmHg
   RR: 17 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             517 mL
   PO:
             TF:
   IVF:
   517 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    170 mL
   Urine:
   170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    347 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   distant
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, Lt knee bandaged, leg in immobilizer.
   RLE
 large region anterior leg erythematous
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   215 K/uL
   95 mg/dL
   5.2 mg/dL
   22 mEq/L
   4.5 mEq/L
   45 mg/dL
   93 mEq/L
   128 mEq/L
   29.7 %
   8.4 K/uL
        [image002.jpg]
                             [**2184-2-8**]  08:02 PM
   WBC
   8.4
   Hct
   29.7
   Plt
   215
   Cr
   5.2
   Glucose
   95
   Other labs: PT / PTT / INR:15.3/55.6/1.3, CK / CKMB / Troponin-T:31//,
   ALT / AST:16/22, Alk Phos / T Bili:107/0.4, Amylase / Lipase:/29,
   Differential-Neuts:71.4 %, Lymph:13.8 %, Mono:7.7 %, Eos:6.4 %,
   Albumin:2.3 g/dL, Ca++:8.4 mg/dL, Mg++:2.6 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   NSVT
   -cardiology consult
   -cont amio
   Nonoliguric renal failure
   -presumed ATN from HOTN during septic period
   Fluid status
   -sig fluid overload
   -diurese as tolerated
   Ileus
   -NGT decompression
   Hyponatremia
   -hypervolemic - likely CHF related
   B/l cellulitis
   -angry looking - b/l is odd
   -mark margin & follow
   Lt Septic knee
   -s/p removal prosthesis
   -cont abx
   -consult ortho
   HTN
   Gout
   -iv colchicine
   Anemia
   h/o PE - IVC filter in place
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2184-02-09 06:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2184-2-8**] 05:50 PM
 PICC LINE - START [**2184-2-8**] 05:50 PM
 EKG - At [**2184-2-8**] 06:28 PM
   No events overnight
   History obtained from Patient
   Allergies:
   History obtained from PatientLorazepam
   agitation;
   Last dose of Antibiotics:
   Daptomycin - [**2184-2-8**] 11:32 PM
   Infusions:
   Amiodarone - 1 mg/min
   Heparin Sodium - 2,550 units/hour
   Other ICU medications:
   Metoprolol - [**2184-2-9**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Flowsheet Data as of  [**2184-2-9**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.5
C (97.7
   HR: 67 (65 - 72) bpm
   BP: 125/49(70) {99/17(33) - 140/85(92)} mmHg
   RR: 18 (10 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
             Total In:
                                                                    971 mL
                                                                    748 mL
   PO:
             TF:
   IVF:
                                                                    971 mL
                                                                    748 mL
   Blood products:
   Total out:
                                                                    395 mL
                                                                    465 mL
   Urine:
                                                                    395 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    576 mL
                                                                    283 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), Regular rhythm
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   202 K/uL
   9.8 g/dL
   87 mg/dL
   5.2 mg/dL
   22 mEq/L
   4.3 mEq/L
   46 mg/dL
   94 mEq/L
   128 mEq/L
   30.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2184-2-8**]  08:02 PM
                             [**2184-2-9**]  03:35 AM
   WBC
   8.4
   8.4
   Hct
   29.7
   30.4
   Plt
   215
   202
   Cr
   5.2
   5.2
   Glucose
   95
   87
   Other labs: PT / PTT / INR:16.6/77.3/1.5, CK / CKMB / Troponin-T:31//,
   ALT / AST:16/22, Alk Phos / T Bili:107/0.4, Amylase / Lipase:/29,
   Differential-Neuts:71.4 %, Lymph:13.8 %, Mono:7.7 %, Eos:6.4 %,
   Albumin:2.3 g/dL, Ca++:8.3 mg/dL, Mg++:2.6 mg/dL, PO4:6.8 mg/dL
   Imaging: [**2-8**] KUB PFI: Non-obstructive bowel gas pattern.
   [**2-8**] CXR: Redistribution of the pulmonary vasculature without evidence
   of frank
   pulmonary edema. No evidence of pneumonia. Right IJ appraoch CVC with
   tip
   likely still in IJ. Right PICC with tip in mid-SVC.
   Assessment and Plan
   63 y/o M with Htn, HL, gout, morbid obesity, recurrent PE's s/p IVC
   filter, T2DM, s/p left knee arthroplasty for septic joint, complicated
   by [**Last Name (un) 2406**] and non-sustained ventricular tachycardia
   # NSVT: No tachycardic episodes overnight on telemetry, though reported
   breakthrough arrhythmias at OSH. CK/MB flat last night. Troponin not
   checked as likely to be elevated in setting of past elevation and [**Last Name (un) 2406**].
   Cards following here, with initial recs to continue amiodarone infusion
   and IV beta blockade, as well as with diuresis, given contribution of
   volume overload to ongoing arrhythmias. This morning, cards
   recommending d/c
ing amiodarone
   - EKG
   - Portable CXR
   - telemetry
   - c/w amiodarone infusion and Q4 IV metoprolol, per cards
   - consider EP study if increased ectopy despite anti-arrhythmics
   - check lytes; replete K, Mg PRN
   # [**Last Name (un) 2406**]: Creatinine stably elevated at 5.2 overnight. Baseline creatinine
   reportedly 0.8. OSH renal ultrasound, urine eos unrevealing. Etiology
   likely ATN, given recent hypotension and sepsis. BUN/creatinine ratio
   c/w intrinsic kidney injury. U/A fairly unrevealing on admission. Is
   producing urine.
   - Will check renal U/S to rule out obstructive uropathy
   - C/w lasix 40 mg IV daily
   - PM lytes
   - U/A
   - Monitor UOP, BUN/creatinine
   - If urine output drops or creatinine continues to worsen, will
   consider renal consult
   # S/p septic knee/left knee arthroplasty: POD 6 from left knee
   resection with placement of antibiotic spacers at NEBH. Multiple recent
   cultures potentially growing multiple organisms. Knee culture
   reportedly had staph lugdunensis. ABx spacer with tobramycin and
   vancomycin, also transferred on daptomycin and ceftriaxone (day 1 =
   [**2-4**]).
   - Monitor knee/lower extremity exam
   - Follow WBC
   - Wound care consult
   - ortho consult to monitor post-op knee
   - Check ESR/CRP
   - Plain film of knee
   - pain control with analgesics per NEBH pain consult recommendations
   - Obtain specific culture/sensitivity data from OSH micro
   - Will touch base with [**Hospital1 1**] ID for ABx recommendations; potential
   daptomycin approval
   # Ileus: per OSH records, KUB confirmed ileus after significant NG tube
   output. Non tender on exam now, but endorses nausea and occasional
   vomiting. Does have flatus, is tolerating frequent ice chips overnight.
   [**Hospital1 1**] KUB with non-obstructive gas pattern
   - NPO for now
   - Monitor bowel movements/flatus
   - Consider conservative diet if having GI output
   - enema if ileus does not resolve
   # Hypertension: BP normal on arrival.
   - Metoprolol per cards recs, with BP holding parameters
   # Hypercholesterolemia
   - reportedly takes statin as outpatient; holding while NPO
   # H/o PE s/p IVC filter:
   - c/w heparin gtt at rate from OSH
   - PTT goal 60-100
   - Will consider transitioning to warfarin if not requiring invasive
   interventions
   # H/o bilateral cellulitis/foot wounds: Has dressings from OSH around
   both feet for blistering wounds. Patient reports chronic cellulitis on
   bilateral shins. Right shin erythema c/w cellulitis, although not
   painful. Left similarly erythematous
   - Monitor affected area for enlargement
   - wound care consult
   # Anemia: Stable. No hematoma over post-op knee
   - Monitor hct
   - If anemic, will guaiac stools, given known esophageal varices
   # Glaucoma: C/w steroid eye drops
   # OSA refuses CPAP: Monitor oxygen saturation overnight on nasal
   cannula. If significant [**Last Name (LF) 10959**], [**First Name3 (LF) 116**] consider non-invasive positive
   pressure ventilation
   # Cholelithiasis: Not an active issue. Will monitor abdominal exam
   # Gout: Taking colchicine at OSH. Will hold at this time, given [**Last Name (un) 2406**].
   Will also avoid indomethacin or other NSAIDs
   - If symptoms flare, will consider prednisone.
   # Esophageal varices: Chronic & stable, per patient. No records @ [**Hospital1 1**]
   # Hepatic steatosis: Will check LFTs on admission
   # FEN: NPO as above, with potential diet advancement if having
   BM/flatus
   # Access: PICC, IJ CVL; both placed at OSH
   # Prophylaxis: Heparin gtt, IV PPI
   # Communication: Wife [**Name (NI) 117**] [**Name (NI) 3995**] [**Name (NI) 10960**]: [**Telephone/Fax (1) 10961**] (H),
   [**Telephone/Fax (1) 10962**] (W)
   # Code: Full (confirmed)
   # Dispo: Can potentially call out to floor, given stable telemetry
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-2-8**] 05:50 PM
   PICC Line - [**2184-2-8**] 05:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-02-09 09:05:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: NSVT, renal failure, cellulitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2184-2-8**] 05:50 PM
 PICC LINE - START [**2184-2-8**] 05:50 PM
 EKG - At [**2184-2-8**] 06:28 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Lorazepam
   agitation;
   Last dose of Antibiotics:
   Daptomycin - [**2184-2-8**] 11:32 PM
   Infusions:
   Amiodarone - 1 mg/min
   Heparin Sodium - 2,550 units/hour
   Other ICU medications:
   Metoprolol - [**2184-2-9**] 08:14 AM
   Pantoprazole (Protonix) - [**2184-2-9**] 08:15 AM
   Furosemide (Lasix) - [**2184-2-9**] 08:15 AM
   Morphine Sulfate - [**2184-2-9**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-2-9**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.4
C (95.7
   HR: 75 (65 - 75) bpm
   BP: 134/50(72) {99/17(33) - 143/85(92)} mmHg
   RR: 18 (10 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
             Total In:
                                                                    971 mL
                                                                    896 mL
   PO:
             TF:
   IVF:
                                                                    971 mL
                                                                    896 mL
   Blood products:
   Total out:
                                                                    395 mL
                                                                    625 mL
   Urine:
                                                                    395 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    576 mL
                                                                    271 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   distant
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, b/l LE erythema anterior leg, large blisters on feet
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   202 K/uL
   87 mg/dL
   5.2 mg/dL
   22 mEq/L
   4.3 mEq/L
   46 mg/dL
   94 mEq/L
   128 mEq/L
   30.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2184-2-8**]  08:02 PM
                             [**2184-2-9**]  03:35 AM
   WBC
   8.4
   8.4
   Hct
   29.7
   30.4
   Plt
   215
   202
   Cr
   5.2
   5.2
   Glucose
   95
   87
   Other labs: PT / PTT / INR:16.6/77.3/1.5, CK / CKMB / Troponin-T:31//,
   ALT / AST:16/22, Alk Phos / T Bili:107/0.4, Amylase / Lipase:/29,
   Differential-Neuts:71.4 %, Lymph:13.8 %, Mono:7.7 %, Eos:6.4 %,
   Albumin:2.3 g/dL, Ca++:8.3 mg/dL, Mg++:2.6 mg/dL, PO4:6.8 mg/dL
   Assessment and Plan
   NSVT
   -tele
   -cardiology consult
   -no NSVT overnight
   -cont amiodarone gtt
   Nonoliguric renal failure
   -presumed ATN from HOTN during septic period
   -creat stable overnight
   -cont make urine
   -no indication for dialysis - hopeful that will recover function
   without need for dialysis
   Fluid status
   -sig fluid overload
   -diurese as tolerated
   Ileus
   -NGT decompression
   Hyponatremia
   -hypervolemic - likely CHF related
   B/l cellulitis
   -b/l is unusual ? venous stasis changes though looks a bit
   erythematous/bright more c/w cellulitis
   -mark margin & follow
   Lt Septic knee
   -POD#6 s/p removal prosthesis, cleanout
   -check micro/sensi from OSH - consult ID since is on unusual abx
   regimen
   -cont abx
   -consult ortho
   HTN
   Gout
   Anemia
   h/o splenectomy
   h/o PE - IVC filter in place
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-2-8**] 05:50 PM
   PICC Line - [**2184-2-8**] 05:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2184-02-10 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2184-2-9**] 12:32 PM
   Kidneys
 EKG - At [**2184-2-9**] 09:14 PM
   - per cards- stopping amio gtt, started IV Lopressor for goal HR 55-65.
   Did end up restarting amio gtt around 10pm given runs of PVCs nearly
   every 3 beats
   - ID consulted: continue daptomycin and ceftriaxone; would increase
   ceftriaxone to 2g iv q24h. may benefit from rifampin at some point in
   therapy, though need to weigh risk/benefit in light of liver disease
   and med interaction potential. check weekly cpk on daptomycin and cbc,
   diff, lfts, bun/cr on ceftriaxone
   -we will contact Dr. [**Last Name (STitle) 10988**] of [**Hospital3 5666**], his current ID
   provider, [**Name10 (NameIs) **] discuss her management plan
   - Ortho: ESR/CRP elev, knee films pending read; no acute orthopaedic
   intervention, should return to NEBH for further ortho f/u
   - Renal u/s could not be done [**1-27**] body habitus
   - Creatinine 5.2 --> 6.0.
   Allergies:
   Lorazepam
   agitation;
   Last dose of Antibiotics:
   Daptomycin - [**2184-2-8**] 11:32 PM
   Ceftriaxone - [**2184-2-9**] 09:43 AM
   Infusions:
   Heparin Sodium - 2,150 units/hour
   Amiodarone - 1 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2184-2-9**] 08:15 AM
   Pantoprazole (Protonix) - [**2184-2-9**] 08:00 PM
   Morphine Sulfate - [**2184-2-9**] 08:00 PM
   Metoprolol - [**2184-2-10**] 03:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Respiratory: Cough, Non-productive cough
   Gastrointestinal: Nausea, Emesis
   Neurologic: Numbness / tingling, Mild tingling bilateral feet
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2184-2-10**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.5
C (97.7
   HR: 75 (72 - 102) bpm
   BP: 123/62(75) {105/47(64) - 143/88(95)} mmHg
   RR: 18 (9 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
             Total In:
                                                                  1,579 mL
                                                                    567 mL
   PO:
             TF:
   IVF:
                                                                  1,564 mL
                                                                    567 mL
   Blood products:
   Total out:
                                                                  2,435 mL
                                                                    475 mL
   Urine:
                                                                  2,435 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -856 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   213 K/uL
   10.2 g/dL
   110 mg/dL
   6.0 mg/dL
   21 mEq/L
   4.5 mEq/L
   52 mg/dL
   95 mEq/L
   131 mEq/L
   30.7 %
   7.5 K/uL
        [image002.jpg]
                             [**2184-2-8**]  08:02 PM
                             [**2184-2-9**]  03:35 AM
                             [**2184-2-9**]  04:22 PM
                             [**2184-2-10**]  04:48 AM
   WBC
   8.4
   8.4
   7.5
   Hct
   29.7
   30.4
   30.7
   Plt
   [**Telephone/Fax (3) 10989**]
   Cr
   5.2
   5.2
   6.0
   6.0
   Glucose
   95
   87
   114
   110
   Other labs: PT / PTT / INR:19.2/65.2/1.8, CK / CKMB / Troponin-T:31//,
   ALT / AST:15/26, Alk Phos / T Bili:114/0.4, Amylase / Lipase:/56,
   Differential-Neuts:72.5 %, Lymph:11.5 %, Mono:8.0 %, Eos:7.5 %,
   Albumin:2.3 g/dL, LDH:525 IU/L, Ca++:8.5 mg/dL, Mg++:2.8 mg/dL, PO4:6.7
   mg/dL
   Imaging: [**2-9**] Knee Pain film: Report pending
   [**2-9**] Renal U/S: Cannot visualize kidneys b/c of large habitus
   Assessment and Plan
   63 y/o M with Htn, HL, gout, morbid obesity, recurrent PE's s/p IVC
   filter, T2DM, s/p left knee arthroplasty for septic joint, complicated
   by [**Last Name (un) 2406**] and non-sustained ventricular tachycardia
   # NSVT: No tachycardic episodes overnight on telemetry, though reported
   breakthrough arrhythmias at OSH. CK/MB flat last night. Troponin not
   checked as likely to be elevated in setting of past elevation and [**Last Name (un) 2406**].
   Cards following here, with initial recs to continue amiodarone infusion
   and IV beta blockade, as well as with diuresis, given contribution of
   volume overload to ongoing arrhythmias. This morning, cards
   recommending d/c
ing amiodarone
   - EKG
   - Portable CXR
   - telemetry
   - c/w amiodarone infusion and Q4 IV metoprolol, per cards
   - consider EP study if increased ectopy despite anti-arrhythmics
   - check lytes; replete K, Mg PRN
   # [**Last Name (un) 2406**]: Creatinine stably elevated at 5.2 overnight. Baseline creatinine
   reportedly 0.8. OSH renal ultrasound, urine eos unrevealing. Etiology
   likely ATN, given recent hypotension and sepsis. BUN/creatinine ratio
   c/w intrinsic kidney injury. U/A fairly unrevealing on admission. Is
   producing urine.
   - Will check renal U/S to rule out obstructive uropathy
   - C/w lasix 40 mg IV daily
   - PM lytes
   - U/A
   - Monitor UOP, BUN/creatinine
   - If urine output drops or creatinine continues to worsen, will
   consider renal consult
   # S/p septic knee/left knee arthroplasty: POD 6 from left knee
   resection with placement of antibiotic spacers at NEBH. Multiple recent
   cultures potentially growing multiple organisms. Knee culture
   reportedly had staph lugdunensis. ABx spacer with tobramycin and
   vancomycin, also transferred on daptomycin and ceftriaxone (day 1 =
   [**2-4**]).
   - Monitor knee/lower extremity exam
   - Follow WBC
   - Wound care consult
   - ortho consult to monitor post-op knee
   - Check ESR/CRP
   - Plain film of knee
   - pain control with analgesics per NEBH pain consult recommendations
   - Obtain specific culture/sensitivity data from OSH micro
   - Will touch base with [**Hospital1 1**] ID for ABx recommendations; potential
   daptomycin approval
   # Ileus: per OSH records, KUB confirmed ileus after significant NG tube
   output. Non tender on exam now, but endorses nausea and occasional
   vomiting. Does have flatus, is tolerating frequent ice chips overnight.
   [**Hospital1 1**] KUB with non-obstructive gas pattern
   - NPO for now
   - Monitor bowel movements/flatus
   - Consider conservative diet if having GI output
   - enema if ileus does not resolve
   # Hypertension: BP normal on arrival.
   - Metoprolol per cards recs, with BP holding parameters
   # Hypercholesterolemia
   - reportedly takes statin as outpatient; holding while NPO
   # H/o PE s/p IVC filter:
   - c/w heparin gtt at rate from OSH
   - PTT goal 60-100
   - Will consider transitioning to warfarin if not requiring invasive
   interventions
   # H/o bilateral cellulitis/foot wounds: Has dressings from OSH around
   both feet for blistering wounds. Patient reports chronic cellulitis on
   bilateral shins. Right shin erythema c/w cellulitis, although not
   painful. Left similarly erythematous
   - Monitor affected area for enlargement
   - wound care consult
   # Anemia: Stable. No hematoma over post-op knee
   - Monitor hct
   - If anemic, will guaiac stools, given known esophageal varices
   # Glaucoma: C/w steroid eye drops
   # OSA refuses CPAP: Monitor oxygen saturation overnight on nasal
   cannula. If significant [**Last Name (LF) 10959**], [**First Name3 (LF) 116**] consider non-invasive positive
   pressure ventilation
   # Cholelithiasis: Not an active issue. Will monitor abdominal exam
   # Gout: Taking colchicine at OSH. Will hold at this time, given [**Last Name (un) 2406**].
   Will also avoid indomethacin or other NSAIDs
   - If symptoms flare, will consider prednisone.
   # Esophageal varices: Chronic & stable, per patient. No records @ [**Hospital1 1**]
   # Hepatic steatosis: Will check LFTs on admission
   # FEN: NPO as above, with potential diet advancement if having
   BM/flatus
   # Access: PICC, IJ CVL; both placed at OSH
   # Prophylaxis: Heparin gtt, IV PPI
   # Communication: Wife [**Name (NI) 117**] [**Name (NI) 3995**] [**Name (NI) 10960**]: [**Telephone/Fax (1) 10961**] (H),
   [**Telephone/Fax (1) 10962**] (W)
   # Code: Full (confirmed)
   # Dispo: Can potentially call out to floor, given stable telemetry
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-2-8**] 05:50 PM
   PICC Line - [**2184-2-8**] 05:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-02-10 12:52:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: VT, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2184-2-9**] 12:32 PM
   Kidneys
 EKG - At [**2184-2-9**] 09:14 PM
   History obtained from Patient, Family / [**Hospital 380**] Medical records
   Allergies:
   Lorazepam
   agitation;
   Last dose of Antibiotics:
   Daptomycin - [**2184-2-8**] 11:32 PM
   Ceftriaxone - [**2184-2-10**] 09:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2184-2-10**] 03:08 AM
   Pantoprazole (Protonix) - [**2184-2-10**] 08:45 AM
   Furosemide (Lasix) - [**2184-2-10**] 08:50 AM
   Morphine Sulfate - [**2184-2-10**] 08:50 AM
   Other medications:
   PPI, Lasix 40 qday, IV heparin, daptomycin, eye gtt, lopressor,
   amiodarone, ceftriaxone, morphine prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-2-10**] 12:43 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 79 (72 - 102) bpm
   BP: 130/62(77) {105/47(64) - 131/88(95)} mmHg
   RR: 17 (9 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
             Total In:
                                                                  1,579 mL
                                                                    938 mL
   PO:
             TF:
   IVF:
                                                                  1,564 mL
                                                                    938 mL
   Blood products:
   Total out:
                                                                  2,435 mL
                                                                    725 mL
   Urine:
                                                                  2,435 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -856 mL
                                                                    213 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Obese, ecchymosis left base
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, erythema both shins.  Left knee incision c/d/i
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.2 g/dL
   213 K/uL
   110 mg/dL
   6.0 mg/dL
   21 mEq/L
   4.5 mEq/L
   52 mg/dL
   95 mEq/L
   131 mEq/L
   30.7 %
   7.5 K/uL
        [image002.jpg]
                             [**2184-2-8**]  08:02 PM
                             [**2184-2-9**]  03:35 AM
                             [**2184-2-9**]  04:22 PM
                             [**2184-2-10**]  04:48 AM
   WBC
   8.4
   8.4
   7.5
   Hct
   29.7
   30.4
   30.7
   Plt
   [**Telephone/Fax (3) 10989**]
   Cr
   5.2
   5.2
   6.0
   6.0
   Glucose
   95
   87
   114
   110
   Other labs: PT / PTT / INR:19.2/65.2/1.8, CK / CKMB / Troponin-T:31//,
   ALT / AST:15/26, Alk Phos / T Bili:114/0.4, Amylase / Lipase:/56,
   Differential-Neuts:72.5 %, Lymph:11.5 %, Mono:8.0 %, Eos:7.5 %,
   Albumin:2.3 g/dL, LDH:525 IU/L, Ca++:8.5 mg/dL, Mg++:2.8 mg/dL, PO4:6.7
   mg/dL
   Assessment and Plan
   63-year-old man with
          Complex left knee history: replacement, infection, removal
   of hardware
   o         Now with tobra/vanco spacers
   o         Systemic dapto/ceftriaxone
   o         ID following
          Hx of recurrent pulmonary emboli
   o         Now on systemic heparin
          Acute renal failure
   o         Imaging unsuccessful view yesterday
   o         Renal consult today
          Malnutrition
   o         If not making progress toward adequate nutrition, TPN
   tomorrow
          Ectopy / NSVT
   o         Seen by cardiology
 plan to convert to beta blockade today.
          Access
   o         Will review PICC position with venous access team and try to
   remove outside line
   ICU Care
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-2-8**] 05:50 PM
   PICC Line - [**2184-2-8**] 05:50 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: discussed with wife on [**Name2 (NI) 1812**]
   Code status: Full code
   Disposition :  ICU until off amio gtt
   Total time spent:  35 min

2184-02-11 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2184-2-10**] 12:30 PM
 PICC LINE - STOP [**2184-2-10**] 04:00 PM
   - ortho came by-said likely nothing to do but follow up with his ortho
   MD [**First Name (Titles) **] [**Last Name (Titles) 904**]
   - SBPs 80s-90s into the evening, got 1 L NS at midnight. Improved to
   120/50. By 0200 90/40, got 2nd L NS
   Allergies:
   Lorazepam
   agitation;
   Last dose of Antibiotics:
   Ceftriaxone - [**2184-2-10**] 09:00 AM
   Daptomycin - [**2184-2-11**] 02:47 AM
   Infusions:
   Heparin Sodium - 2,600 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2184-2-10**] 08:50 AM
   Heparin Sodium - [**2184-2-10**] 01:30 PM
   Morphine Sulfate - [**2184-2-10**] 04:15 PM
   Pantoprazole (Protonix) - [**2184-2-10**] 08:26 PM
   Metoprolol - [**2184-2-11**] 05:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Nutritional Support: NPO, Tube feeds
   Respiratory: Cough
   Gastrointestinal: Nausea, Emesis
   Psychiatric / Sleep: "groggy"
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2184-2-11**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.5
   HR: 74 (72 - 104) bpm
   BP: 105/51(63) {85/41(53) - 142/67(82)} mmHg
   RR: 12 (10 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
             Total In:
                                                                  2,554 mL
                                                                  1,321 mL
   PO:
             TF:
   IVF:
                                                                  2,554 mL
                                                                  1,321 mL
   Blood products:
   Total out:
                                                                  2,410 mL
                                                                    185 mL
   Urine:
                                                                  1,960 mL
                                                                    185 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                    144 mL
                                                                  1,136 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm, Rash: symmetric over bilateral shins
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   225 K/uL
   9.3 g/dL
   105 mg/dL
   6.9 mg/dL
   23 mEq/L
   4.8 mEq/L
   53 mg/dL
   97 mEq/L
   130 mEq/L
   28.4 %
   13.9 K/uL
        [image002.jpg]
                             [**2184-2-8**]  08:02 PM
                             [**2184-2-9**]  03:35 AM
                             [**2184-2-9**]  04:22 PM
                             [**2184-2-10**]  04:48 AM
                             [**2184-2-10**]  06:52 PM
                             [**2184-2-11**]  03:39 AM
   WBC
   8.4
   8.4
   7.5
   13.9
   Hct
   29.7
   30.4
   30.7
   28.4
   Plt
   [**Telephone/Fax (3) 11005**]25
   Cr
   5.2
   5.2
   6.0
   6.0
   6.1
   6.9
   Glucose
   95
   87
   114
   110
   109
   105
   Other labs: PT / PTT / INR:19.2/98.4/1.8, CK / CKMB / Troponin-T:31//,
   ALT / AST:15/26, Alk Phos / T Bili:114/0.4, Amylase / Lipase:/56,
   Differential-Neuts:72.5 %, Lymph:11.5 %, Mono:8.0 %, Eos:7.5 %,
   Albumin:2.3 g/dL, LDH:525 IU/L, Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:7.1
   mg/dL
   Microbiology: [**2-10**] Catheter tip: pending
   Assessment and Plan
   63 y/o M with Htn, HL, gout, morbid obesity, recurrent PE's s/p IVC
   filter, T2DM, s/p left knee arthroplasty for septic joint, complicated
   by [**Last Name (un) 2406**] and non-sustained ventricular tachycardia
   # NSVT: Off of Amiodarone, cards believes hyperadrenergic state s/p
   surgery, +/- volume overload. Started beta blocker as amio
   discontinued. Had brief episode of PVCs overnight
   - Continue Lopressor 20 mg q6 but evaluate PVC trend for consideration
   of increasing Lopressor dose
   - Continue telemetry
   - Check lytes [**Hospital1 **] and replete PRN
   # [**Last Name (un) 2406**]: Likely prerenal [**1-27**] surgery, had suboptimal US. BUN:Cr of 10,
   but Cr not improving despite hydration. Continued worsening GFR. Renal
   recommended monitoring I/Os and electrolytes, consider initiation of
   hemodialysis. Electrolytes stable but some PVCs overnight
   - Continue to monitor UOP, BUN/creatinine and GFR
   - Follow-up on renal recs
   - PM lytes
   - Consider albumin challenge and recheck urine lytes
   # Leukocytosis and low-grade fevers: Etiology unclear
   - [**Name (NI) **] culture today
   # S/p septic knee/left knee arthroplasty: POD 7 from left knee
   resection with placement of antibiotic spacers at NEBH. Multiple recent
   cultures potentially growing multiple organisms. Knee culture
   reportedly had staph lugdunensis. ABx spacer with tobramycin and
   vancomycin, also transferred on daptomycin and ceftriaxone (day 1 =
   [**2-4**]).
   - Monitor knee/lower extremity exam
   - Follow WBC
   - Wound care consulted
 appreciate their following
   - Ortho following
 appreciate recs
   - Will follow-up on ID recs
 appreciate their following
   # Ileus: per OSH records, KUB confirmed ileus after significant NG tube
   output. Vomited x 1 this Am, decreased BS. Does have flatus, is
   tolerating frequent ice chips overnight. [**Hospital1 1**] KUB with non-obstructive
   gas pattern
   - NPO for now, may advance diet today after clamp trial
   - Will attempt clamp trial again today
   - Decrease morphine doses to prevent narcotics-induced ileus
   - Monitor bowel movements/flatus
   - Enema if ileus does not resolve
   # Hypertension: BP normal on arrival.
   - Metoprolol per cards recs, with BP holding parameters
   # Hypercholesterolemia
   - reportedly takes statin as outpatient; holding while NPO
   # H/o PE s/p IVC filter:
   - c/w heparin gtt at rate from OSH
   - PTT goal 60-100
   - Will consider transitioning to warfarin if not requiring invasive
   interventions
   # H/o bilateral cellulitis/foot wounds: Has dressings from OSH around
   both feet for blistering wounds. Patient reports chronic cellulitis on
   bilateral shins. Right shin erythema c/w cellulitis, although not
   painful. Left similarly erythematous
   - Monitor affected area for enlargement
   - wound care consult
   # Anemia: Stable. No hematoma over post-op knee
   - Monitor hct
   - If anemic, will guaiac stools, given known esophageal varices
   # Glaucoma: C/w steroid eye drops
   # OSA refuses CPAP: Monitor oxygen saturation overnight on nasal
   cannula. If significant [**Last Name (LF) 10959**], [**First Name3 (LF) 116**] consider non-invasive positive
   pressure ventilation
   # Cholelithiasis: Not an active issue. Will monitor abdominal exam
   # Gout: Taking colchicine at OSH. Will hold at this time, given [**Last Name (un) 2406**].
   Will also avoid indomethacin or other NSAIDs
   - If symptoms flare, will consider prednisone.
   # Esophageal varices: Chronic & stable, per patient. No records @ [**Hospital1 1**]
   # Hepatic steatosis: Will check LFTs on admission
   # FEN: NPO as above
 will start MVI/Thiamine/Folate. TPN orders in, if
   fails clamp trial today
   # Access: Multilumen, midline (RIJ will likely need to be discontinued,
   changed today)
   # Prophylaxis: Heparin gtt, IV PPI
   # Communication: Wife [**Name (NI) 117**] [**Name (NI) 3995**] [**Name (NI) 10960**]: [**Telephone/Fax (1) 10961**] (H),
   [**Telephone/Fax (1) 10962**] (W)
   # Code: Full (confirmed)
   # Dispo: Can potentially call out to floor, given stable telemetry
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-2-8**] 05:50 PM
   Midline - [**2184-2-10**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-02-12 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2184-2-11**] 03:00 PM
 MULTI LUMEN - STOP [**2184-2-11**] 05:43 PM
   .
   AM Hct was 21 (prior level 28). Cross matched 2 units and repeated Hct
   -> 28.
   NGT clamped without issues (no nausea/vomiting) --> advancing diet as
   tolerated
   No PVCs, will consider Metoprolol PO today
   Renal following, no HD for now
   Allergies:
   Lorazepam
   agitation;
   Last dose of Antibiotics:
   Daptomycin - [**2184-2-11**] 02:47 AM
   Ceftriaxone - [**2184-2-11**] 07:38 AM
   Infusions:
   Heparin Sodium - 3,050 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-2-11**] 08:20 PM
   Morphine Sulfate - [**2184-2-12**] 02:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-2-12**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.4
   HR: 70 (70 - 81) bpm
   BP: 113/66(79) {100/49(64) - 144/103(114)} mmHg
   RR: 11 (10 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
    CVP: 5 (5 - 5)mmHg
   Total In:
                                                                  4,469 mL
                                                                    316 mL
   PO:
                                                                  2,000 mL
   TF:
   IVF:
                                                                  2,419 mL
                                                                    316 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  2,090 mL
                                                                    820 mL
   Urine:
                                                                  1,590 mL
                                                                    820 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                  2,379 mL
                                                                   -504 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   326 K/uL
   7.1 g/dL
   89 mg/dL
   6.6 mg/dL
   25 mEq/L
   4.0 mEq/L
   57 mg/dL
   95 mEq/L
   132 mEq/L
   28.8 %
   13.0 K/uL
        [image002.jpg]
                             [**2184-2-8**]  08:02 PM
                             [**2184-2-9**]  03:35 AM
                             [**2184-2-9**]  04:22 PM
                             [**2184-2-10**]  04:48 AM
                             [**2184-2-10**]  06:52 PM
                             [**2184-2-11**]  03:39 AM
                             [**2184-2-11**]  03:09 PM
                             [**2184-2-11**]  08:10 PM
                             [**2184-2-12**]  03:33 AM
                             [**2184-2-12**]  04:46 AM
   WBC
   8.4
   8.4
   7.5
   13.9
   13.0
   Hct
   29.7
   30.4
   30.7
   28.4
   21.8
   28.8
   Plt
   [**Telephone/Fax (3) 11005**]25
   326
   Cr
   5.2
   5.2
   6.0
   6.0
   6.1
   6.9
   6.4
   6.7
   6.6
   Glucose
   95
   87
   114
   110
   109
   105
   94
   89
   89
   Other labs: PT / PTT / INR:16.6/57.4/1.5, CK / CKMB / Troponin-T:31//,
   ALT / AST:15/26, Alk Phos / T Bili:114/0.4, Amylase / Lipase:/56,
   Differential-Neuts:90.0 %, Band:3.0 %, Lymph:2.0 %, Mono:2.0 %, Eos:2.0
   %, Albumin:2.3 g/dL, LDH:525 IU/L, Ca++:8.4 mg/dL, Mg++:2.7 mg/dL,
   PO4:6.2 mg/dL
   Assessment and Plan
   63 y/o M with Htn, HL, gout, morbid obesity, recurrent PE's s/p IVC
   filter, T2DM, s/p left knee arthroplasty for septic joint, complicated
   by [**Last Name (un) 2406**] and non-sustained ventricular tachycardia
   # NSVT: Off of Amiodarone, cards believes hyperadrenergic state s/p
   surgery, +/- volume overload. Started beta blocker as amio
   discontinued. Had brief episode of PVCs overnight
   - Continue Lopressor 20 mg q6 but evaluate PVC trend for consideration
   of increasing Lopressor dose
   - Continue telemetry
   - Check lytes [**Hospital1 **] and replete PRN
   # [**Last Name (un) 2406**]: Likely prerenal [**1-27**] surgery, had suboptimal US. BUN:Cr of 10,
   but Cr not improving despite hydration. Continued worsening GFR. Renal
   recommended monitoring I/Os and electrolytes, consider initiation of
   hemodialysis. Electrolytes stable but some PVCs overnight
   - Continue to monitor UOP, BUN/creatinine and GFR
   - Follow-up on renal recs
   - PM lytes
   - Consider albumin challenge and recheck urine lytes
   # Leukocytosis and low-grade fevers: Etiology unclear
   - [**Name (NI) **] culture today
   # S/p septic knee/left knee arthroplasty: POD 7 from left knee
   resection with placement of antibiotic spacers at NEBH. Multiple recent
   cultures potentially growing multiple organisms. Knee culture
   reportedly had staph lugdunensis. ABx spacer with tobramycin and
   vancomycin, also transferred on daptomycin and ceftriaxone (day 1 =
   [**2-4**]).
   - Monitor knee/lower extremity exam
   - Follow WBC
   - Wound care consulted
 appreciate their following
   - Ortho following
 appreciate recs
   - Will follow-up on ID recs
 appreciate their following
   # Ileus: per OSH records, KUB confirmed ileus after significant NG tube
   output. Vomited x 1 this Am, decreased BS. Does have flatus, is
   tolerating frequent ice chips overnight. [**Hospital1 1**] KUB with non-obstructive
   gas pattern
   - NPO for now, may advance diet today after clamp trial
   - Will attempt clamp trial again today
   - Decrease morphine doses to prevent narcotics-induced ileus
   - Monitor bowel movements/flatus
   - Enema if ileus does not resolve
   # Hypertension: BP normal on arrival.
   - Metoprolol per cards recs, with BP holding parameters
   # Hypercholesterolemia
   - reportedly takes statin as outpatient; holding while NPO
   # H/o PE s/p IVC filter:
   - c/w heparin gtt at rate from OSH
   - PTT goal 60-100
   - Will consider transitioning to warfarin if not requiring invasive
   interventions
   # H/o bilateral cellulitis/foot wounds: Has dressings from OSH around
   both feet for blistering wounds. Patient reports chronic cellulitis on
   bilateral shins. Right shin erythema c/w cellulitis, although not
   painful. Left similarly erythematous
   - Monitor affected area for enlargement
   - wound care consult
   # Anemia: Stable. No hematoma over post-op knee
   - Monitor hct
   - If anemic, will guaiac stools, given known esophageal varices
   # Glaucoma: C/w steroid eye drops
   # OSA refuses CPAP: Monitor oxygen saturation overnight on nasal
   cannula. If significant [**Last Name (LF) 10959**], [**First Name3 (LF) 116**] consider non-invasive positive
   pressure ventilation
   # Cholelithiasis: Not an active issue. Will monitor abdominal exam
   # Gout: Taking colchicine at OSH. Will hold at this time, given [**Last Name (un) 2406**].
   Will also avoid indomethacin or other NSAIDs
   - If symptoms flare, will consider prednisone.
   # Esophageal varices: Chronic & stable, per patient. No records @ [**Hospital1 1**]
   # Hepatic steatosis: Will check LFTs on admission
   # FEN: NPO as above
 will start MVI/Thiamine/Folate. TPN orders in, if
   fails clamp trial today
   # Access: Multilumen, midline (RIJ will likely need to be discontinued,
   changed today)
   # Prophylaxis: Heparin gtt, IV PPI
   # Communication: Wife [**Name (NI) 117**] [**Name (NI) 3995**] [**Name (NI) 10960**]: [**Telephone/Fax (1) 10961**] (H),
   [**Telephone/Fax (1) 10962**] (W)
   # Code: Full (confirmed)
   # Dispo: Can potentially call out to floor, given stable telemetry
 ALTERATION IN NUTRITION
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ARTHRITIS, SEPTIC (JOINT INFECTION, SEPTIC JOINT, INCLUDING KNEE,
   HIP, ANKLE, ETC.)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2184-2-10**] 12:30 PM
   20 Gauge - [**2184-2-11**] 03:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-02-13 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - STOP [**2184-2-12**] 02:10 PM
 PICC LINE - START [**2184-2-12**] 02:10 PM
   [**2-11**]:
   - Decreased and spaced out morphine PRN's
   - Started on IV vitamins
   - CXR with new right basilar opacity
   - U/A unrevealing, eos negative (were positive on admission)
   - Right IJ d/c'd; left midline OK to use except for TPN (does not cross
   axilla). IV nurses have been unsuccessful in placing PICC, IR does not
   want to come to bedside to place, and patient too heavy to have PICC
   placed on table in IR suite
   - Renal: favor no fluids AND no lasix; believe fluid balance will
   resolve on its own
   - ID: C/w daptomycin (should cover coag neg stah & staph lugdenensis),
   d/c'd ceftriaxone. In regards to ?PNA on CXR, favor observation -->
   cefepime +/- if resp status decompensates. Expect 4-6 weeks of IV [**Month/Year (2) **]
   since surgery ([**2-3**]). Consider rifampin as outpt. Will f/u with [**Hospital1 1**] ID
   as outpatient
   - Blood cultures pending
   - NEBH Culture data faxed: [**Date range (1) 11061**] Urine, blood, knee joint fluid all
   negative
   - Clamping trial going well
   [**2-12**]:
   - AM Hct was 21 (prior level 28). Cross matched 2 units and repeated
   Hct -> 28.
   - Can try PO lopressor tomorrow; also still on hep gtt
   - Multilumen PICC placed
   - ID fellow recs: Likely [**First Name8 (NamePattern2) 116**] [**Doctor First Name **] [**3-30**]+ weeks [**Last Name (LF) 114**], [**First Name3 (LF) **] try Rifampin as
   outpatient. PLEASE CALL [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 9555**] prior to discharge to arrange
   [**Last Name (NamePattern1) **], outpatient appt w/ him
   - Renal recs: Likely third spacing. Cr stable. Continue Lasix, fluid
   restrict to 1L
   - LFTs stable (given Daptomycin)
   - Updated wife
   - Called out but lost bed...
   Allergies:
   Lorazepam
   agitation;
   Last dose of Antibiotics:
   Ceftriaxone - [**2184-2-11**] 07:38 AM
   Daptomycin - [**2184-2-13**] 12:20 AM
   Infusions:
   Heparin Sodium - 3,500 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2184-2-12**] 08:00 AM
   Pantoprazole (Protonix) - [**2184-2-12**] 07:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-2-13**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.3
   HR: 74 (68 - 82) bpm
   BP: 161/86(111) {110/52(64) - 161/102(114)} mmHg
   RR: 20 (10 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
             Total In:
                                                                    968 mL
                                                                    472 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                    968 mL
                                                                    352 mL
   Blood products:
   Total out:
                                                                  2,910 mL
                                                                    795 mL
   Urine:
                                                                  2,910 mL
                                                                    795 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,942 mL
                                                                   -323 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   228 K/uL
   9.0 g/dL
   94 mg/dL
   6.4 mg/dL
   22 mEq/L
   4.4 mEq/L
   60 mg/dL
   97 mEq/L
   132 mEq/L
   27.9 %
   10.6 K/uL
        [image002.jpg]
                             [**2184-2-9**]  03:35 AM
                             [**2184-2-9**]  04:22 PM
                             [**2184-2-10**]  04:48 AM
                             [**2184-2-10**]  06:52 PM
                             [**2184-2-11**]  03:39 AM
                             [**2184-2-11**]  03:09 PM
                             [**2184-2-11**]  08:10 PM
                             [**2184-2-12**]  03:33 AM
                             [**2184-2-12**]  04:46 AM
                             [**2184-2-13**]  02:32 AM
   WBC
   8.4
   7.5
   13.9
   13.0
   10.6
   Hct
   30.4
   30.7
   28.4
   21.8
   28.8
   27.9
   Plt
   [**Telephone/Fax (3) 11062**]26
   228
   Cr
   5.2
   6.0
   6.0
   6.1
   6.9
   6.4
   6.7
   6.6
   6.4
   Glucose
   87
   114
   110
   109
   105
   94
   89
   89
   94
   Other labs: PT / PTT / INR:15.1/79.6/1.3, CK / CKMB / Troponin-T:31//,
   ALT / AST:21/36, Alk Phos / T Bili:111/0.3, Amylase / Lipase:/56,
   Differential-Neuts:90.0 %, Band:3.0 %, Lymph:2.0 %, Mono:2.0 %, Eos:2.0
   %, Albumin:2.6 g/dL, LDH:507 IU/L, Ca++:8.7 mg/dL, Mg++:2.6 mg/dL,
   PO4:6.0 mg/dL
   Assessment and Plan
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 ALTERATION IN NUTRITION
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ARTHRITIS, SEPTIC (JOINT INFECTION, SEPTIC JOINT, INCLUDING KNEE,
   HIP, ANKLE, ETC.)
   Assessment and Plan
   63 y/o M with Htn, HL, gout, morbid obesity, recurrent PE's s/p IVC
   filter, T2DM, s/p left knee arthroplasty for septic joint, complicated
   by [**Last Name (un) 2406**] and non-sustained ventricular tachycardia
   # NSVT: Off of Amiodarone, cards believes hyperadrenergic state s/p
   surgery, +/- volume overload. Started beta blocker as amio
   discontinued. Had brief episode of PVCs overnight
   - Change to Lopressor 20 mg q6 but evaluate PVC trend for consideration
   of increasing Lopressor dose
 will consider switching to PO given
   tolerating more PO
   - Continue telemetry
   - Check lytes [**Hospital1 **] and replete PRN
   # [**Last Name (un) 2406**]: Likely prerenal [**1-27**] surgery, had suboptimal US. BUN:Cr of 10,
   but Cr not improving despite hydration. Continued worsening GFR. Renal
   recommended monitoring I/Os and electrolytes, given they feel this is
   still due to third-spacing . Electrolytes stable
   - Continue to monitor UOP, BUN/creatinine and GFR
   - Follow-up on renal recs, they do not now recommend HD but will
   continue Lasix diuresis
   - PM lytes
   - Consider albumin challenge and recheck urine lytes
   # S/p septic knee/left knee arthroplasty: POD 9 from left knee
   resection with placement of antibiotic spacers at NEBH. Multiple recent
   cultures potentially growing multiple organisms. Knee culture
   reportedly had staph lugdunensis. [**Month/Day (2) **] spacer with tobramycin and
   vancomycin, also transferred on daptomycin and ceftriaxone (day 1 =
   [**2-4**]).
   - Monitor knee/lower extremity exam
 slightly less brawny, dusky in
   coloration suggesting interval improvement
   - Follow WBC
   - Wound care consulted
 appreciate their following
   - Ortho following
 appreciate recs; plan of having patient resume care
   with outpatient orthopedic surgeon at NEBH
   - ID recs: They want a call prior to d/c to set up all outpatient f/u
   - continue [**Month/Year (2) 114**]
   # Ileus: Does have flatus, is tolerating apple sauce and jello today
   - transition all IV meds to PO
   - advance diet as tolerated
   - continue clamp trial today
   - Discontinue morphine doses to prevent narcotics-induced ileus
 will
   try Tylenol instead today
   - Monitor bowel movements/flatus
   # H/o bilateral cellulitis/foot wounds: Has dressings from OSH around
   both feet for blistering wounds. Patient reports chronic cellulitis on
   bilateral shins. Right shin erythema c/w cellulitis, although not
   painful. Left similarly erythematous
   - Monitor affected area for enlargement
   - derm consult given skin pattern more consistent with ?[**Female First Name (un) 444**] (red,
   clearly demarcated, satellite lesions)
   # Hypertension: BP normal on arrival.
   - Metoprolol per cards recs, with BP holding parameters
   # Hypercholesterolemia
   - reportedly takes statin as outpatient; holding while NPO and has
   known liver issues
   # H/o PE s/p IVC filter:
   - c/w heparin gtt at rate from OSH
   - PTT goal 60-100
   - transition to warfarin today now that all lines have been placed.
   Will start with 2.5mg daily for now in setting of concurrent
   antibiotics.
   # Anemia: Stable. No hematoma over post-op knee
   - Monitor hct
   - If anemic, will guaiac stools, given known esophageal varices
   # Glaucoma: C/w steroid eye drops
   # OSA refuses CPAP: Monitor oxygen saturation overnight on nasal
   cannula. If significant [**Last Name (LF) 10959**], [**First Name3 (LF) 116**] consider non-invasive positive
   pressure ventilation
   # Cholelithiasis: Not an active issue. Will monitor abdominal exam
   # Gout: Taking colchicine at OSH. Will hold at this time, given [**Last Name (un) 2406**].
   Will also avoid indomethacin or other NSAIDs
   - If symptoms flare, will consider prednisone.
   # Esophageal varices: Chronic & stable, per patient. No records @ [**Hospital1 1**]
   # Hepatic steatosis: In setting of receiving Dapto
   - LFTs stable yesterday
   # FEN: ADAT. will start MVI/Thiamine/Folate. TPN orders in, if fails
   clamp trial
   # Access: midline, will probably need a tunneled lumen line placed in
   OR
   # Prophylaxis: Heparin gtt, IV PPI
   # Communication: Wife [**Name (NI) 117**] [**Name (NI) 3995**] [**Name (NI) 10960**]: [**Telephone/Fax (1) 10961**] (H),
   [**Telephone/Fax (1) 10962**] (W)
   # Code: Full (confirmed)
   # Dispo: Can potentially call out to floor, given stable telemetry
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-2-11**] 03:46 PM
   PICC Line - [**2184-2-12**] 02:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: